US04007217
Production of ethyl 2-hydroxy-3-(4-t-butylphenyl)-3-butenoate
12.4 Grams of the ethyl 3-methyl-3-(4-t-butylphenyl-glycidate was dissolved in 60 ml. of dry isopropyl ether. Into this solution, 0.3 g. of sulfuric acid was dropped with ice-cooling, and the resulting mixture was reacted at room temperature for 1 hour. Thereafter, the reaction liquid was poured into water, and then extracted with ether. The ether layer was washed with water and with a saturated aqueous sodium chloride solution in this order, and then dried over anhydrous magnesium sulfate. Subsequently, the ether was evaporated under reduced pressure, and the residue was subjected to distillation to obtain 9.7 g. of the end compound, b.p. 115°- 119° C./0.2 mmHg, yield 78.2% (theoretical value).

reactant | 4-t-butylphenyl-glycidate | C(C)(C)(C)C1=CC=C(C=C1)C1(C(=O)[O-])CO1
reactant | isopropyl ether | C(C)(C)OC(C)C | C6H14O
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
solvent | water | O | H2O
product | ethyl 2-hydroxy-3-(4-t-butylphenyl)-3-butenoate | OC(C(=O)OCC)C(=C)C1=CC=C(C=C1)C(C)(C)C | C16H22O3
